US06228893B1
Paratoluenesulfonic acid (20 mg) was added to a solution of 388 mg of 1,1-(ethylenedioxy)-3-(10-hydroxydecyl)-2-methyl-3-(phenylsulfonyl)-cyclohexane in 30 ml of chloroform and 6 ml of acetone. The resulting mixture was reacted at 50° C. for 24 hours. To the reaction mixture was added 10 ml of a saturated aqueous solution of sodium bicarbonate, followed by extraction with dichloromethane. The organic layer was washed with saturated saline and dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column while using hexane-ethyl acetate, whereby 3-(10-hydroxydecyl)-2-methyl-2-cyclohexen-1-one was obtained in the form of a colorless oil. Yield: 45%

reactant | 1,1-(ethylenedioxy)-3-(10-hydroxydecyl)-2-methyl-3-(phenylsulfonyl)-cyclohexane | 388 mg | C1OC2(C(C(CCC2)(S(=O)(=O)C2=CC=CC=C2)CCCCCCCCCCO)C)OC1 | C25H40O5S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 6 ml | CC(=O)C | C3H6O
product | 3-(10-hydroxydecyl)-2-methyl-2-cyclohexen-1-one | Yield: 45% | OCCCCCCCCCCC1=C(C(CCC1)=O)C | C17H30O2
